US04042694
5,5-Dimethyl-10-[2-methyl-4-(morpholino)butyryloxy]-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine dihydrochloride (SP-202)
A combination of 5.0 g. (12.6 mmole) of 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-2-(2-propynyl)1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine, 2.82 g. (12.6 mmole) of α-methyl-γ-morpholinobutyric acid hydrochloride, 2.78 g. (13.5 mmole) of dicyclohexylcarbodiimide and 250 ml. of methylene chloride was stirred at room temperature for 16 hours. The reaction mixture was cooled and the by-product of dicyclohexylurea was removed by suction filtration. The solvent was removed and the residue dissolved in a mixture of methylene chloride/cyclohexane and again filtered to remove a small amount of insoluble material. After evaporation of the solvents, the material was dissolved in methylene chloride and converted to the dihydrochloride salt by the addition of ethereal hydrogen chloride. The solvents were removed and the residue was recrystallized from a methylene chloride/diethyl ether mixture to give 4.2 g. (52%) of colorless crystals, m.p. 188°-192° C. The sample was shown to be free of starting material by thin layer chromatography (10% MeOH/CHCl 3), and the infrared and nuclear magnetic resonance spectra were consistent with the proposed structure.

reactant | 5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-2-(2-propynyl)1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine | 12.6 mmole | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)O)C2=C1CCN(C2)CC#C)C | C26H37NO2
reactant | α-methyl-γ-morpholinobutyric acid hydrochloride | 12.6 mmole | Cl.CC(C(=O)O)CCN1CCOCC1
reactant | dicyclohexylcarbodiimide | 13.5 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5,5-Dimethyl-10-[2-methyl-4-(morpholino)butyryloxy]-8-(3-methyl-2-octyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine dihydrochloride | Cl.Cl.CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)OC(C(CCN2CCOCC2)C)=O)C2=C1CCN(C2)CC#C)C | InChI=1S/C35H52N2O4.2ClH/c1-8-10-11-12-25(3)27(5)28-22-31(40-34(38)26(4)13-16-36-18-20-39-21-19-36)33-29-24-37(15-9-2)17-14-30(29)35(6,7)41-32(33)23-28;;/h2,22-23,25-27H,8,10-21,24H2,1,3-7H3;2*1H
